US05344843
A solution of 4-[N-[2-(2-naphthalenyloxy)ethyl]formamido]-alpha-oxobenzeneacetic acid methyl ester (0.5 g) in warm methanol (5 mL) and tetrahydrofuran (5 mL) was treated with 1N sodium hydroxide (2 mL) and the mixture was concentrated to remove the organic solvents. The residue was acidified with excess hydrochloric acid and extracted with dichloromethane. The organic layer was washed with water, dried (Na2SO4), filtered and evaporated. The residue was crystallized acetone-hexane to give 0.32 g of 4-[N-[2-(2-naphthalenyloxy)ethyl]formamido]-alpha-oxobenzeneacetic acid, mp 155°-156° C. as a yellow solid.

reactant | 4-[N-[2-(2-naphthalenyloxy)ethyl]formamido]-alpha-oxobenzeneacetic acid methyl ester | 0.5 g | COC(C(C1=CC=C(C=C1)N(C=O)CCOC1=CC2=CC=CC=C2C=C1)=O)=O | C22H19NO5
reactant | sodium hydroxide | 1N, 2 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-[N-[2-(2-naphthalenyloxy)ethyl]formamido]-alpha-oxobenzeneacetic acid | 0.32 g | C1=C(C=CC2=CC=CC=C12)OCCN(C=O)C1=CC=C(C=C1)C(C(=O)O)=O | C21H17NO5
